US07595401B2
Synthesis of toluene-4-sulfonic acid 2-(1-benzyl-1,2,3,6-tetrahydro-pyridin-4-yl)-ethyl ester
To a solution of 2-(1-benzyl-1,2,3,6-tetrahydro-pyridin-4-yl)ethanol (0.822 g, 4.09 mmol) (J. Med. Chem. 1990, 33, 3133) in dichloromethane was added p-toluene sulfonyl chloride (1.71 g, 9.00 mmol) and triethyl amine (2.3 mL, 16.4 mmol) and DMAP (0.050 g, 0.41 mmol) at room temperature and stirring continued at rt for 3 h. The reaction mixture was diluted with dichloromethane and washed with aq NaHCO3 (10% W/V) solution, followed by saturated NaCl solution. The organic layer was dried (Na2SO4), filtered and solvent was evaporated to dryness. The product was flash chromatographed over silica gel using gradient of 0-10% methanol in dichloromethane. 1H NMR (CDCl3) δ 7.77 (d, 8.4 Hz, 2H), 7.34-7.30 (m, 5H), 7.26 (m, 1H), 5.36 (m, 1H), 4.09 (t, J=6.8 Hz, 2H), 3.54 (s, 2H), 2.92-2.88 (m, 2H), 2.50 (t, J=5.6 Hz, 2H), 2.44 (s, 3H), 2.31 (brt, J=6.8 Hz, 2H), 2.20-1.84 (m, 2H).

reactant | 2-(1-benzyl-1,2,3,6-tetrahydro-pyridin-4-yl)ethanol | 4.09 mmol, 0.822 g | C(C1=CC=CC=C1)N1CCC(=CC1)CCO | C14H19NO
reactant | p-toluene sulfonyl chloride | 9.00 mmol, 1.71 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | triethyl amine | 16.4 mmol, 2.3 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | DMAP | 0.41 mmol, 0.050 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | toluene-4-sulfonic acid 2-(1-benzyl-1,2,3,6-tetrahydro-pyridin-4-yl)-ethyl ester | C(C1=CC=CC=C1)N1CCC(=CC1)CCOS(=O)(=O)C1=CC=C(C=C1)C | C21H25NO3S
